US09416138B2
3-(Aminomethyl)-3,4-dihydro-2H-isoquinolin-1-one
Dissolve 3-(azidomethyl)-3,4-dihydro-2H-isoquinolin-1-one (1.8 g, 8.9 mmol) in EtOAc (15 mL). Under a nitrogen atmosphere add 10% Pd/C (0.2 g) then stir overnight under a hydrogen atmosphere. Filter reaction mixture through Celite® and wash the Celite® with EtOAc. MS (m/z): 177 (M+1).

reactant | 3-(azidomethyl)-3,4-dihydro-2H-isoquinolin-1-one | 8.9 mmol, 1.8 g | N(=[N+]=[N-])CC1NC(C2=CC=CC=C2C1)=O | C10H10N4O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 3-(Aminomethyl)-3,4-dihydro-2H-isoquinolin-1-one | NCC1NC(C2=CC=CC=C2C1)=O | C10H12N2O
